US09428509B2
3-Methoxy-4-((5-(2-methoxypyridin-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-N-methylbenzamide
To a degassed mixture of 2-chloro-5-(2-methoxypyridin-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv), 4-amino-3-methoxy-N-methylbenzamide (1.1 equiv) and cesium carbonate (3 equiv) in 1,4-dioxane (0.175 M) was added palladium acetate (0.3 equiv) and 2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl (0.6 equiv). The reaction was stirred at 100° C. for 2 h. After the reaction was complete, the reaction mixture was cooled to room temperature, filtered and concentrated to afford the crude product (95% yield, crude) as a brown solid which was used in the next step without further purification. MS (ESI) m/z 635.3 [M+1]+.

reactant | 2-chloro-5-(2-methoxypyridin-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC(=NC=C2)OC)COCC[Si](C)(C)C)OC2CCOCC2 | C23H31ClN4O4Si
reactant | 4-amino-3-methoxy-N-methylbenzamide | 1.1 equiv | NC1=C(C=C(C(=O)NC)C=C1)OC | C9H12N2O2
reactant | cesium carbonate | 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl | 0.6 equiv | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | 1,4-dioxane | 0.175 M | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.3 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-Methoxy-4-((5-(2-methoxypyridin-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-N-methylbenzamide | 95% yield | COC=1C=C(C(=O)NC)C=CC1NC=1N=C(C2=C(N1)N(C=C2C2=CC(=NC=C2)OC)COCC[Si](C)(C)C)OC2CCOCC2 | C32H42N6O6Si
